US07244764B2
Preparation of 3-(4-phenyl-1,2,3,6-tetrahydropyridin-1-yl)-1-propanesulfonic acid (Compound O)
To a solution of 4-phenyl-1,2,3,6-tetrahydropyridine (1.95 g, 12.2 mmol) in acetone (20 mL) was added 1,3-propane sultone (1.66 g, 13.5 mmol). The mixture was stirred at reflux for 2 h. The resulting suspension was cooled to room temperature. The solid was collected by filtration, washed with acetone (2×25 mL) and dried in vacuo. The product was suspended in 50% MeOH/acetone (75 mL). The suspension was stirred at reflux for 5 min. The solid material was filtered and washed with acetone (2×25 mL). This allowed the isolation of compound O, 1.74 g (51%).

reactant | 4-phenyl-1,2,3,6-tetrahydropyridine | 12.2 mmol, 1.95 g | C1(=CC=CC=C1)C=1CCNCC1 | C11H13N
reactant | 1,3-propane sultone | 13.5 mmol, 1.66 g | C1COS(=O)(=O)C1 | C3H6O3S
solvent | acetone | 20 mL | CC(=O)C | C3H6O
product | 3-(4-phenyl-1,2,3,6-tetrahydropyridin-1-yl)-1-propanesulfonic acid | C1(=CC=CC=C1)C=1CCN(CC1)CCCS(=O)(=O)O | C14H19NO3S
